US06288082B1
4-(3H-benzotriazol-5-ylamino)-8-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 141, 218.6 mg (1 mmol) of 4-chloro-8-methoxy-3-quinolinecarbonitrile, 161.0 mg (1.2 mmol) of 5-aminobenzotriazole and 115.6 mg (1 mmol) of pyridine hydrochloride in 10 mL of 2-ethoxyethanol was heated at 100° C. for 1 hr. The work up gave 213.5 mg (67.6%) of the product as a yellow solid, m.p.>250 C., mass (electrospray, m/e): M+H 316.9. HRCIMS: calcd 316.107 for C17H12N6O (M+), obsd 316.1079.

reactant | 4-chloro-8-methoxy-3-quinolinecarbonitrile | 1 mmol, 218.6 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | 5-aminobenzotriazole | 1.2 mmol, 161.0 mg | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(3H-benzotriazol-5-ylamino)-8-methoxy-quinoline-3-carbonitrile | N1=NNC2=C1C=CC(=C2)NC2=C(C=NC1=C(C=CC=C21)OC)C#N | C17H12N6O
